US08383827B2
A 40 mL scintillation vial was charged with ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-amide (0.075 g, 0.200 mmol) and DMF (3 mL). The reaction mixture was cooled to 0° C. and sodium hydride (0.012 g, 0.299 mmol) was added. The reaction was left to stir at room temperature for 20 min followed by the addition of iodoethane (0.050 g, 0.319 mmol). The reaction was stirred at room temperature overnight. The reaction was quenched with water (0.5 mL) and filtered. The filtrate was dissolved in DMF (3 mL) and purified using Xbridge C18 eluting with a 10 to 100% ACN-water to afford pure product ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-ethyl-amide as a white color solid. HRMS: (ESI) m/z 404.1190 [(M+H)+ Calcd for C20H22ClN3O2S 404.1199]. 1H NMR (400 MHz, MeOD) δ ppm 0.52-0.68 (m, 1H), 0.71-0.82 (m, 1H), 0.91-1.05 (m, 2H), 1.22 (t, J=7.1 Hz, 3H), 1.43 (t, J=7.5 Hz, 3H), 1.60-1.88 (m, 1H), 3.28 (q, J=7.3 Hz, 2H), 3.39-3.51 (m, 1H), 3.55-3.66 (m, 1H), 4.32 (d, J=10.6 Hz, 1H), 7.93 (dd, J=8.1, 1.8 Hz, 1H), 8.06 (d, J=8.3 Hz, 1H), 8.15 (d, J=1.5 Hz, 1H), 8.87 (s, 1H), 9.04 (d, J=1.8 Hz, 1H), 9.14 (d, J=1.8 Hz, 1H).

reactant | ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-amide | 0.200 mmol, 0.075 g | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(C1CC1)NS(=O)(=O)CC | C18H18ClN3O2S
reactant | sodium hydride | 0.299 mmol, 0.012 g | [H-].[Na+]
reactant | iodoethane | 0.319 mmol, 0.050 g | ICC | C2H5I
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | ethanesulfonic acid {[5-(3-chloro-4-cyano-phenyl)-pyridin-3-yl]-cyclopropyl-methyl}-ethyl-amide | ClC=1C=C(C=CC1C#N)C=1C=C(C=NC1)C(C1CC1)N(S(=O)(=O)CC)CC | C20H22ClN3O2S
